US06812225B2
Ethyl-6-methoxy-8-(4-Methyl-piperazin-1-yl)-4-oxo-4H-chromene-2-carboxylate (1.0 g, 2.89 mmol), as prepared in Reference Example 2d above, was suspended in 6 M HCl (60 ml) and methanol (10 mL) and warmed to reflux for 3.0 h. The reaction was allowed to cool. The solution was concentrated in vacuo and anhydrous toluene was added (×3) and the solution was again concentrated in vacuo. The residue was dried under vacuum (17 h) to yield 6-methoxy-8-(4-methyl-1-piperazinyl)-4-oxo-4H-chromene-2-carboxylic acid hydrochloride as a yellow powder (1.0 g, quantitative yield).

reactant | Ethyl-6-methoxy-8-(4-Methyl-piperazin-1-yl)-4-oxo-4H-chromene-2-carboxylate | 2.89 mmol, 1.0 g | C(C)OC(=O)C=1OC2=C(C=C(C=C2C(C1)=O)OC)N1CCN(CC1)C | C18H22N2O5
reactant | methanol | 10 mL | CO | CH4O
reactant | HCl | 6 M, 60 ml | Cl | ClH
product | 6-methoxy-8-(4-methyl-1-piperazinyl)-4-oxo-4H-chromene-2-carboxylic acid hydrochloride | 1.0 g, quantitative yield | Cl.COC=1C=C2C(C=C(OC2=C(C1)N1CCN(CC1)C)C(=O)O)=O | InChI=1S/C16H18N2O5.ClH/c1-17-3-5-18(6-4-17)12-8-10(22-2)7-11-13(19)9-14(16(20)21)23-15(11)12;/h7-9H,3-6H2,1-2H3,(H,20,21);1H
